US05204326
Preparation of Boc-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2
By using 30.00 g of Boc-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 and 19.60 g of Boc-Thr(Bzl)-Gly-OH, and the same procedure as in Reference Example 15 was repeated to obtain 32.36 g (yield: 77.7%) of the above-mentioned objective product.

reactant | Boc-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 30.00 g | N([C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C33H45N5O8
reactant | Boc-Thr(Bzl)-Gly-OH | 19.60 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C18H26N2O6
product | Boc-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 32.36 g, yield: 77.7% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C46H61N7O11
